US07560558B2
6-Methoxy-7-methylisoquinoline (239 mg) and sodium thiomethoxide (1.58 g) were suspended in N,N-dimethylformamide (12 ml), and the suspension was stirred at 160° C. for 2 hr. The reaction solution was cooled to room temperature, the reaction solution was then filtered, and the solvent was removed from the filtrate by distillation under the reduced pressure. The residue was purified by thin layer chromatography using chloroform-methanol to give 6-hydroxy-7-methylisoquinoline (21 mg, yield 1%).

reactant | 6-Methoxy-7-methylisoquinoline | 239 mg | COC=1C=C2C=CN=CC2=CC1C | C11H11NO
reactant | sodium thiomethoxide | 1.58 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 6-hydroxy-7-methylisoquinoline | 21 mg, yield 1% | OC=1C=C2C=CN=CC2=CC1C | C10H9NO
